

Vdd 69 0 DC 2.5


M1 4 1 69 69 PMOS W={2*r} L=0.25u AD={2*r*Ld} AS={2*r*Ld} PD={2*Ld+2*r} PS={2*Ld+2*r}
M2 4 2 69 69 PMOS W={2*r} L=0.25u AD={2*r*Ld} AS={2*r*Ld} PD={2*Ld+2*r} PS={2*Ld+2*r}
M3 5 2 4 69 PMOS W={4*r} L=0.25u AD={4*r*Ld} AS={4*r*Ld} PD={2*Ld+4*r} PS{2*Ld+4*r}
M4 6 3 4 69 PMOS W={2*r} L=0.25u AD={2*r*Ld} AS={2*r*Ld} PD={2*Ld+2*r} PS{2*Ld+2*r}
M5 6 1 5 69 PMOS W={4*r} L=0.25u AD={4*r*Ld} AS={4*r*Ld} PD={2*Ld+4*r} PS={2*Ld+4*r}
M6 6 3 7 0 NMOS W={Wn} L=0.25u AD={Wn*Ld} AS={Wn*Ld} PD={2*Ld+Wn} PS={2*Ld+Wn}
M7 7 1 0 0 NMOS W={Wn} L=0.25u AD={Wn*Ld} AS={Wn*Ld} PD={2*Ld+Wn} PS{2*Ld+Wn}
M8 7 2 0 0 NMOS W={Wn} L=0.25u AD={Wn*Ld} AS={Wn*Ld} PD={2*Ld+Wn} PS{2*Ld+Wn}
M9 8 2 0 0 NMOS W={Wn} L=0.25u AD={Wn*Ld} AS={Wn*Ld} PD={2*Ld+Wn} PS={2*Ld+Wn}
M10 6 1 8 0 NMOS W={Wn} L=0.25u AD={Wn*Ld} AS={Wn*Ld} PD={2*Ld+Wn} PS={2*Ld+Wn}

CLx 6 0 0.02706p
*i xoritikotita tou pinkoti prokupti apo ton tupo pou dothike stis diafanies

*(0,0,0)->(1,1,1)
VinA 1 0 PULSE  0 2.5 2n 1.5n 1.5n 2.5n 10n
VinB 2 0 PULSE  0 2.5 2n 1.5n 1.5n 2.5n 10n
VinC 3 0 PULSE  0 2.5 2n 1.5n 1.5n 2.5n 10n

*(0,0,0)->(1,1,0)
*VinA 1 0 PULSE  0 2.5 2n 1.5n 1.5n 2.5n 10n
*VinB 2 0 PULSE  0 2.5 2n 1.5n 1.5n 2.5n 10n
*VinC 3 0 DC 0

*(0,0,0)->(1,0,1)
*VinA 1 0 PULSE  0 2.5 2n 1.5n 1.5n 2.5n 10n
*VinB 2 0 DC 0
*VinC 3 0 PULSE  0 2.5 2n 1.5n 1.5n 2.5n 10n

*(0,0,0)->(0,1,1)
*VinA 1 0 DC 0
*VinB 2 0 PULSE  0 2.5 2n 1.5n 1.5n 2.5n 10n
*VinC 3 0 PULSE  0 2.5 2n 1.5n 1.5n 2.5n 10n

*(1,1,1)->(0,0,0)
*VinA 1 0 PULSE  2.5 0 2n 1.5n 1.5n 2.5n 10n
*VinB 2 0 PULSE  2.5 0 2n 1.5n 1.5n 2.5n 10n
*VinC 3 0 PULSE  2.5 0 2n 1.5n 1.5n 2.5n 10n

*(1,1,1)->(0,0,1)
*VinA 1 0 PULSE  2.5 0 2n 1.5n 1.5n 2.5n 10n
*VinB 2 0 PULSE  2.5 0 2n 1.5n 1.5n 2.5n 10n
*VinC 3 0 DC 2.5

*(1,1,1)->(0,1,0)
*VinA 1 0 PULSE  2.5 0 2n 1.5n 1.5n 2.5n 10n
*VinB 2 0 DC 2.5
*VinC 3 0 PULSE  2.5 0 2n 1.5n 1.5n 2.5n 10n

*(1,1,1)->(1,0,0)
*VinA 1 0 DC 2.5
*VinB 2 0 PULSE  2.5 0 2n 1.5n 1.5n 2n 10n
*VinC 3 0 PULSE  2.5 0 2n 1.5n 1.5n 2n 10n









.TRAN 0.001n 10n
.PROBE V(1) V(2) V(3) V(6)
.PARAMS  r=4.81u, Wn=2u, Ld=5u
.INC "tsmc025.sp"
.END

