
V_DD 100 0 2.5
R_S 0 4 2255.3

*for the 9.1 a,b,c questions
*C_S 0 4 10u

*For 9.1 d question
C_S 0 4 {CS}

R_D 5 100 522.47
C_CI 2 3 10u


R_G1 3 100 12.8MEG
R_G2 0 3 30MEG

*R_G1 3 100 1MEG
*R_G2 0 3 3MEG

C_CO 5 6 10u
R_L 6 0 50k
R_SIG 1 2 10k
M_M1 5 3 4 4 NMOS L={L} W={W} AD={W*Ld} AS={W*Ld} PD={2*Ld+W} PS={2*Ld+W}

*for d question only
V_IN 1 0 AC 1Vac

*for 9.1 c question only

*V_IN 0 1 SIN(0 0.06 10k)

.PARAM L=0.25u, W=305u, CS=10u,Ld=5u
.INC "tsmc025.sp"

*for 9.1 d question only
.AC  DEC   20  0.15 0.65G

*.TRAN 0.001

*for 9.1 only b question
*.op

*for 9.1 d question only
.STEP PARAM CS list 0 10u
