*MOS transistor I-V characteristics
Vgs 1 0 DC 0
Vds 2 0 DC 0
M1 2 1 0 0 NMOS W=1u L=0.35u
.MODEL NMOS NMOS ( LEVEL = 3
+TOX = 7.9E-9 NSUB = 1E17 GAMMA = 0.5827871
+PHI = 0.7 VTO = 0.5445549 DELTA = 0
+UO = 436.256147 ETA = 0 THETA = 0.1749684
+KP = 2.055786E-4 VMAX = 8.309444E4 KAPPA = 0.2574081
+RSH = 0.0559398 NFS = 1E12 TPG = 1
+XJ = 3E-7 LD = 3.162278E-11 WD = 7.046724E-8
+CGDO = 2.82E-10 CGSO = 2.82E-10 CGBO = 1E-10
+CJ = 1E-3 PB = 0.9758533 MJ = 0.3448504
+CJSW = 3.777852E-10 MJSW = 0.3508721 )
.MODEL PMOS PMOS ( LEVEL = 3
+ TOX = 7.9E-9 NSUB = 1E17 GAMMA = 0.4083894
+ PHI = 0.7 VTO = -0.7140674 DELTA = 0
+ UO = 212.2319801 ETA = 9.999762E-4 THETA = 0.2020774
+ KP = 6.733755E-5 VMAX = 1.181551E5 KAPPA = 1.5
+ RSH = 30.0712458 NFS = 1E12 TPG = -1
+ XJ = 2E-7 LD = 5.000001E-13 WD = 1.249872E-7
+ CGDO = 3.09E-10 CGSO = 3.09E-10 CGBO = 1E-10
+ CJ = 1.419508E-3 PB = 0.8152753 MJ = 0.5
+ CJSW = 4.813504E-10 MJSW = 0.5 )
.TEMP 70
.DC Vds 0 3.3 0.05 Vgs 0 3.3 0.3
.PROBE ID(M1)
.END
