*MOS transistor I-V characteristics
Vgs 1 0  DC 0
Vds 2 0  DC 0
M1 2 1 0 0 PMOS W=1u L=0.35u

.MODEL NMOS NMOS (                                 LEVEL   = 3
+TOX     = 7.9E-9         NSUB    = 1E17           GAMMA   = 0.5827871
+PHI     = 0.7            VTO     = 0.5445549      DELTA   = 0
+UO      = 436.256147     ETA     = 0              THETA   = 0.1749684
+KP      = 2.055786E-4    VMAX    = 8.309444E4     KAPPA   = 0.2574081
+RSH     = 0.0559398      NFS     = 1E12           TPG     = 1
+XJ      = 3E-7           LD      = 3.162278E-11   WD      = 7.046724E-8
+CGDO    = 2.82E-10       CGSO    = 2.82E-10       CGBO    = 1E-10
+CJ      = 1E-3           PB      = 0.9758533      MJ      = 0.3448504
+CJSW    = 3.777852E-10   MJSW    = 0.3508721       )

.MODEL PMOS PMOS (                                  LEVEL  = 3
+ TOX    = 7.9E-9          NSUB   = 1E17            GAMMA  = 0.4083894
+ PHI    = 0.7             VTO    = -0.7140674      DELTA  = 0
+ UO     = 212.2319801     ETA    = 9.999762E-4     THETA  = 0.2020774
+ KP     = 6.733755E-5     VMAX   = 1.181551E5      KAPPA  = 1.5
+ RSH    = 30.0712458      NFS    = 1E12            TPG    = -1
+ XJ     = 2E-7            LD     = 5.000001E-13    WD     = 1.249872E-7
+ CGDO   = 3.09E-10        CGSO   = 3.09E-10        CGBO   = 1E-10
+ CJ     = 1.419508E-3     PB     = 0.8152753       MJ     = 0.5
+ CJSW   = 4.813504E-10    MJSW   = 0.5             )

.TEMP 27
.DC Vds -3.3 0 0.05 Vgs -3.3 0 0.3
.PROBE ID(M1)
.END
