*Inverter DC transfer characteristics
*kn/kp=1
M1 2 1 0 0 NMOS W=2.07u L=0.25u
M2 2 1 3 3 PMOS W=10u L=0.25u
*kn/kp=0.25
M3 4 1 0 0 NMOS W=0.51u L=0.25u
M4 4 1 3 3 PMOS W=10u L=0.25u
*kn/kp=4
M5 5 1 0 0 NMOS W=8.28u L=0.25u
M6 5 1 3 3 PMOS W=10u L=0.25u

Vdd 3 0 DC 2.5
Vin 1 0 DC 0




.MODEL NMOS NMOS (                                  LEVEL  = 3
+ TOX    = 5.7E-9          NSUB   = 1E17            GAMMA  = 0.4317311
+ PHI    = 0.7             VTO    = 0.4238252       DELTA  = 0
+ UO     = 425.6466519     ETA    = 0               THETA  = 0.1754054
+ KP     = 2.501048E-4     VMAX   = 8.287851E4      KAPPA  = 0.1686779
+ RSH    = 4.062439E-3     NFS    = 1E12            TPG    = 1
+ XJ     = 3E-7            LD     = 3.162278E-11    WD     = 1.232881E-8
+ CGDO   = 6.2E-10         CGSO   = 6.2E-10         CGBO   = 1E-10
+ CJ     = 1.81211E-3      PB     = 0.5             MJ     = 0.3282553
+ CJSW   = 5.341337E-10    MJSW   = 0.5             )

.MODEL PMOS PMOS (                                  LEVEL  = 3
+ TOX    = 5.7E-9          NSUB   = 1E17            GAMMA  = 0.6348369
+ PHI    = 0.7             VTO    = -0.5536085      DELTA  = 0
+ UO     = 250             ETA    = 0               THETA  = 0.1573195
+ KP     = 5.194153E-5     VMAX   = 2.295325E5      KAPPA  = 0.7448494
+ RSH    = 30.0776952      NFS    = 1E12            TPG    = -1
+ XJ     = 2E-7            LD     = 9.968346E-13    WD     = 5.475113E-9
+ CGDO   = 6.66E-10        CGSO   = 6.66E-10        CGBO   = 1E-10
+ CJ     = 1.893569E-3     PB     = 0.9906013       MJ     = 0.4664287
+ CJSW   = 3.625544E-10    MJSW   = 0.5             )
*


.DC Vin 0 2.5 0.001
.PROBE V(2) V(4) V(5)  ID(M1) ID(M3) ID(M5)
.END
